US04650799
1,2-Bis(4-acetoxymethyl-3,5-dioxopiperazin-1-yl)ethane
A mixture of 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane (1.50 g, 4.8 m mol), pyridine (10 ml) and acetic anhydride (5 ml, 52.9 m mol) was stirred for 12 hours at room temperature. The reaction mixture was diluted with ethyl acetate (20 ml) and the resulting crystals were collected and washed with ethyl acetate and successively with ether and was dried under reduced pressure to give the titled compound (1.34 g; yield 70.5%).

reactant | 1,2-bis(4-hydroxymethyl-3,5-dioxopiperazin-1-yl)ethane | 1.50 g | OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)CO)=O)=O | C12H18N4O6
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1,2-Bis(4-acetoxymethyl-3,5-dioxopiperazin-1-yl)ethane | 1.34 g, yield 70.5% | C(C)(=O)OCN1C(CN(CC1=O)CCN1CC(N(C(C1)=O)COC(C)=O)=O)=O | C16H22N4O8
